US06232310B1
a) (2-Amino-4-methylthiophene-3-sulfonyl)acetonitrile
A mixture of 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane (3.00 g), sulfonyldiacetonitrile (SO2(CH2CN)2, 4.36 g) and 4-dimethylaminopyridine (0.3 g) in anhydrous methanol (30 ml) was stirred at reflux for 3 h. The mixture was cooled to room temperature, water (130 ml) was added and the resulting mixture was extracted with ethyl acetate (3×50 ml). The combined extracts were washed with brine (20 ml), dried over sodium sulfate, filtered and evaporated to give a dark, oily residue. The title compound was separated from the more polar components by flash chromatography on silica gel eluted with ethyl acetate-heptane 1:1 and was obtained as pale crystals. Yield 2.70 g (38%); mp 88-90° C.; 1H-NMR(CDCl3) δ (ppm): 6.01 (s, 1H), 5.86 (br, 2H), 4.07 (s, 2H), 2.31 (s, 3H); 13C-nmr(CDCl3) δ (ppm): 164.4, 134.4, 111.1, 107.5, 105.4, 45.7, 17.1; MS m/e (rel. intensity): 216 (35%, M+), 176 (23%), 128 (100%), 112 (26%), 85 (10%), 68 (28%); IR(KBr) ν (cm−1): 3476, 3367, 2991, 2260, 1599, 1498, 1322, 1150, 1114.

reactant | 2,5-dihydroxy-2,5-dimethyl-1,4-dithiane | 3.00 g | OC1(SCC(SC1)(C)O)C | C6H12O2S2
reactant | sulfonyldiacetonitrile | 4.36 g | S(=O)(=O)(CC#N)CC#N | C4H4N2O2S
reactant | water | 130 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 30 ml | CO | CH4O
product | (2-Amino-4-methylthiophene-3-sulfonyl)acetonitrile | NC=1SC=C(C1S(=O)(=O)CC#N)C | C7H8N2O2S2
